US06936612B2
8-Cyclopentyl-2-methanesulfinyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (0.936 g, 2.68 mmol) and 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (3.0 g, 10.8 mmol) were added to toluene (5 ml) and heated to 100° C. 1 hour. Diethyl ether (10 ml) was added causing a solid to precipitate. This solid was collected by filtration, washed with diethyl ether, and dried in vacuo yielding 2-[5-(4-tert-Butoxycarbonyl-piperazin-1-yl)-pyridin-2-ylamino]-8-cyclopentyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester as a yellow solid (0.42 g, 28%). MS (APCI); M++1: Calc'd 564.29. Found 564.3.

reactant | 8-Cyclopentyl-2-methanesulfinyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 2.68 mmol, 0.936 g | C(C)OC(=O)C1=CC2=C(N=C(N=C2)S(=O)C)N(C1=O)C1CCCC1 | C16H19N3O4S
reactant | 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 10.8 mmol, 3.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)N | C14H22N4O2
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | Diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 2-[5-(4-tert-Butoxycarbonyl-piperazin-1-yl)-pyridin-2-ylamino]-8-cyclopentyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.42 g, 28% | C(C)OC(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)N(C1=O)C1CCCC1 | C29H37N7O5
